US07125901B2
To a solution of methyl 4-{[4-(methylthio)phenyl]acetyl}benzoate (5 g) in dichloromethane (250 ml) were added acetic acid (0.65 ml) and pyridinium bromide perbromide (6.51 g) at 0° C., and the mixture was stirred for 1 h at the same temperature. The reaction mixture was poured into water (250 ml) and extracted with ethyl acetate (250 ml). The organic layer was washed with water and brine, dried over magnesium sulfate and evapolated. The residue was washed with diisopropylethyl ether and collected by filtration to give methyl 4-{2-bromo[4-(methylthio)phenyl]acetyl}benzoate as an off-white solid.

reactant | methyl 4-{[4-(methylthio)phenyl]acetyl}benzoate | 5 g | CSC1=CC=C(C=C1)CC(=O)C1=CC=C(C(=O)OC)C=C1 | C17H16O3S
reactant | acetic acid | 0.65 ml | C(C)(=O)O | C2H4O2
reactant | pyridinium bromide perbromide | 6.51 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | water | 250 ml | O | H2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | methyl 4-{2-bromo[4-(methylthio)phenyl]acetyl}benzoate | BrC(C(=O)C1=CC=C(C(=O)OC)C=C1)C1=CC=C(C=C1)SC | C17H15BrO3S
